US05124341
A mixture of 0.35 g (1 mmol) of N'-(2,6-dinitro-4-trifluoromethylphenyl)-2,2-dimethylpropionhydrazide, 0.3 g (3.1 mmols) of phosgene and 2.1 ml of toluene was heated to reflux for 2.5 hours (inner temperature of 59° C.). A solution (0.7 ml) of 0.1 g (1 mmol) of phosgene in toluene was further added to the reaction mixture followed by heating to reflux for further 2.5 hours. An excess of phosgene and toluene were distilled off and the residue was taken up in 20 ml of ether. After washing with saturated sodium chloride aqueous solution, the solution was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The thus obtained crude product was subjected to silica gel column chromatography to give 0.17 g of 5-(1,1-dimethylethyl)-3-(2,6-dinitro-4-trifluoromethylphenyl)-1,3,4-oxadiazolin-2-one.

reactant | N'-(2,6-dinitro-4-trifluoromethylphenyl)-2,2-dimethylpropionhydrazide | 1 mmol, 0.35 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NNC(C(C)(C)C)=O | C12H13F3N4O5
reactant | phosgene | 3.1 mmols, 0.3 g | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 1 mmol, 0.1 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.1 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1,1-dimethylethyl)-3-(2,6-dinitro-4-trifluoromethylphenyl)-1,3,4-oxadiazolin-2-one | 0.17 g | CC(C)(C)C1=NN(C(O1)=O)C1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C13H11F3N4O6
